Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___
1.  Coronary artery bypass graft x2.  Total arterial
revascularization.
2.  Skeletonized left internal mammary artery graft to left
anterior descending artery.
3.  Skeletonized free right internal mammary artery as a T
graft off the left internal mammary artery to the posterior
left ventricular branch.

 
History of Present Illness:
___ yo male with known CAD, s/p PCI x2, HTN, HLD, Depression,
asthma, OA and abdpmonal aortic aneurysm ( w/o follow up) who
presented to ___ with 2 days of left sided chest pain.
Pain did not improved with NTG. Non-compliant with ASA or statin
therapy for past ___ years. Also noted to have RLE swelling and ___
u/s negative.  Initial trops negative. He then underwent cardiac 
cath on ___ccess. 
 
Past Medical History:
Abdominal aorta aneurysm ( declined follow up)
anemia
Asthma
arthritis
CAD
depression
hyperlipidemia
hypertension
Past Surgical History:
Gastric bypass ___ (lost 180 pounds)
right inguinal hernia repair
left TKR
tonsillectomy age ___
Past Cardiac Procedures:
Cardiac stent at ___ to RCA ___
Cardiac stents (2) at ___ (patient does not 
knowwhich vessels) ___
 
Social History:
Family History: No history of premature CAD.
Last Dental Exam:> ___ year ago
Lives with: wife ___
Contact:wife ___   Phone # ___
Occupation: ___
Cigarettes: Smoked never [x] yes [] last cigarette _____ Hx:
ETOH: 2  gallons of Vodka weekly per wife, ___ beers or wine per
week per patient
 
Family History:
No history of premature CAD.
 
Physical Exam:
Pre operative Assessment:
Pulse: 54 Resp:18  O2 sat: 94 % RA
B/P  ___
Height:183cm     Weight:91.7 kg

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+[x]
Extremities: Warm [x], well-perfused [x]  Edema [] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: p  Left:p
DP           Right:p   Left:p
___           Right:p   Left:p
Radial       Right:p   Left:p

Carotid Bruit:        Right: -   Left:-

Discharge PE
Vital Signs I/O 
24 HR Data (last updated ___ @ 1132)
    Temp: 98.3 (Tm 98.5), BP: 121/79 (84-176/54-100), HR: 73 
(56-99), RR: 18, O2 sat: 95% (94-98), O2 delivery: Ra, Wt: 
193.56 lb/87.8 kg
Fluid Balance (last updated ___ @ 1335)
  Last 8 hours  Total cumulative 375ml
    IN: Total 600ml, PO Amt 600ml
    OUT:  Total 225ml, Urine Amt 225ml
  Last 24 hours  Total cumulative -895ml
    IN: Total 780ml, PO Amt 780ml
    OUT:  Total 1675ml, Urine Amt 1675ml

General: NAD  
Neurological: A/O x3  non-focal  
Cardiovascular: RRR  no murmur or rub 
Respiratory: Clear decreased at bases, no acute resp distress 
GI/Abdomen: Bowel sounds present Soft ND NT 
Extremities: 
Right Upper extremity   Warm   Edema trace 
Left Upper extremity    Warm   Edema trace 
Right Lower extremity   Warm   Edema trace 
Left Lower extremity    Warm   Edema trace
Pulses:
DP             Right:p       Left:p
___             Right:p       Left:p
Radial         Right:p       Left:p
Sternal: CDI no erythema, spot drainage  Sternum stable 
 
Pertinent Results:
STUDIES:
Cardiac Catheterization: Date: ___    Place:___
Left main- no flow limiting disease
LAD: Moderate 70% ___ 80% mid/distal w/ TIMI 2 flow after
stenosis
LCirc: 100% proximal  
RCA: ___ total occlusion with fill from right and left
collaterals.
.
PA/LAT CXR ___
No pneumothorax is seen status post interval removal of three 
chest tubes. Cardiomediastinal and hilar contours are stable.  
Trace bilateral pleural 
effusions.  Sternotomy wires appear intact.  No focal 
consolidation. 
IMPRESSION: No pneumothorax post removal of three chest tubes. 
.
TTE ___:
CONCLUSION:
The left atrial volume index is normal. The inferior vena cava 
diameter is normal. There is normal left ventricular wall 
thickness with a normal cavity size. There is a small area of 
regional left ventricular systolic
dysfunction with hypokinesis of the basal to mid inferolateral 
and mid anterolateral walls as well as basal inferior septum 
(see schematic) and preserved/normal contractility of the 
remaining segments. The visually
estimated left ventricular ejection fraction is 45%. Left 
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
resting left ventricular outflow tract gradient. No ventricular 
septal defect is seen. Normal right ventricular cavity size with 
depressed free wall motion. Tricuspid annular plane systolic 
excursion (TAPSE) is depressed. The aortic sinus is mildly 
dilated with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal with a normal descending aorta 
diameter. There is no evidence for an aortic arch coarctation. 
The aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. There is trace aortic regurgitation. The 
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse.
There is trivial mitral regurgitation. The pulmonic valve 
leaflets are not well seen. The tricuspid valve leaflets appear 
structurally normal. There is trivial tricuspid regurgitation. 
The estimated pulmonary artery systolic
pressure is normal. There is a trivial pericardial effusion. 
Liver cyst(s) are seen.
IMPRESSION: Normal left ventricular cavity size with mild 
regional systolic dysfunction most consistent with coronary 
artery disease. Mildly dilated aortic root. Trivial pericaridal 
effusion. Mild to moderately depressed right ventricular 
systolic function.
LABS
Admit:
___ 05:24PM BLOOD WBC-3.8* RBC-4.10* Hgb-12.1* Hct-37.3* 
MCV-91 MCH-29.5 MCHC-32.4 RDW-15.1 RDWSD-49.9* Plt ___
___ 05:24PM BLOOD ___ PTT-32.3 ___
___ 05:24PM BLOOD Glucose-100 UreaN-9 Creat-0.6 Na-131* 
K-5.0 Cl-91* HCO3-27 AnGap-13
___ 05:24PM BLOOD ALT-62* AST-72* LD(LDH)-229 AlkPhos-92 
Amylase-45 TotBili-0.8
___ 05:24PM BLOOD Lipase-103*
___ 12:45AM BLOOD Calcium-7.6* Phos-3.8 Mg-2.3
___ 05:24PM BLOOD %HbA1c-4.5 eAG-82
___ 05:12AM BLOOD TSH-5.5*

Discharge:
___ 05:31AM BLOOD WBC-4.0 RBC-3.03* Hgb-9.1* Hct-27.2* 
MCV-90 MCH-30.0 MCHC-33.5 RDW-15.3 RDWSD-50.4* Plt ___
___ 04:53AM BLOOD ___ PTT-31.7 ___
___ 05:31AM BLOOD UreaN-9 Creat-0.6 Na-133* K-4.1
___ 04:53AM BLOOD Glucose-86 UreaN-13 Creat-0.6 Na-133* 
K-4.3 Cl-96 HCO3-29 AnGap-8*
___ 05:31AM BLOOD Mg-2.0
 
Brief Hospital Course:
Mr. ___ was brought to the Operating Room on ___ where 
he underwent CABG x2.  Total arterial revascularization, 
Skeletonized left internal mammary artery graft to left anterior 
descending artery, Skeletonized free right internal mammary 
artery as a T graft off the left internal mammary artery to the 
posterior left ventricular branch.  Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable.  Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  The 
patient was transferred to the telemetry floor for further 
recovery.  Chest tube removal was delayed due to persistent air 
leak.  They were eventually removed without subsequent 
pneumothorax. His pacing wires were discontinued without 
complication.  His mobilization has been slowed by orthostatic 
hypotension, so his diuretics were stopped.  Of note, he was 
admitted with preop hyponatremia (Na 131), had postop nadir to 
127 and now improved to 133.  He should continue oral nitrates 
for 6 months for his arterial grafts.  He was evaluated by the 
Physical Therapy service for assistance with strength and 
mobility.  By the time of discharge on POD 7, he was ambulating 
freely, the wound was healing and pain was controlled with oral 
analgesics.  The patient was discharged to ___ in 
good condition with appropriate follow up instructions.  
Expected length of stay at rehab is less than 30 days.      
 
Medications on Admission:
1. Lisinopril 40 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Citalopram 40 mg PO DAILY 
4. TraZODone 50 mg PO QHS:PRN insomnia 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
max 4000mg/day  
2.  Aspirin EC 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Bisacodyl ___AILY:PRN constipation  
5.  Docusate Sodium 100 mg PO BID  
6.  Isosorbide Dinitrate 5 mg PO TID arterial grafts Duration: 6 
Months 
should continue for 6 months after surgery  
7.  Lidocaine 5% Patch 1 PTCH TD QAM parasternal  
8.  Metoprolol Tartrate 6.25 mg PO Q6H 
hold if HR<50 or SBP<95  
9.  Ramelteon 8 mg PO QPM:PRN insomnia  
10.  Ranitidine 150 mg PO BID Duration: 1 Month  
11.  Senna 17.2 mg PO DAILY  
12.  TraMADol 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0 
13.  Vitamin B Complex 1 CAP PO DAILY  
14.  Citalopram 40 mg PO DAILY  
15.  TraZODone 50 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0 
16. HELD- Lisinopril 40 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until orthostatic hypotension SBP is 
consistently >100

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
___ Diagnosis:
Primary: 
Coronary Artery Disease s/p bypass grafting 
 
Secondary: 
Hyponatremia 
Orthostatic hypotension 
Abdominal aorta aneurysm (declined follow up) 
anemia 
Asthma 
arthritis 
CAD 
depression 
hyperlipidemia 
hypertension 
Past Surgical History: 
Gastric bypass ___ (lost 180 pounds) 
right inguinal hernia repair 
left TKR 
tonsillectomy age ___ 
Past Cardiac Procedures: 
Cardiac stent at ___ to RCA ___ 
Cardiac stents (2) at ___ (patient does not know 

which vessels) ___ 

 
Discharge Condition:
Alert and oriented x3, non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema - trace 

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___